US08420825B2
2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-histidyl-L-alaninate
257 mg (0.724 mmol) of N-(tert-butoxycarbonyl)-L-histidyl-L-alanine together with 151 mg (0.790 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 151 mg (0.988 mmol) of 1-hydroxy-1H-benzotriazole hydrate and 0.574 ml (3.293 mmol) of N,N-diisopropylethylamine were dissolved in 10 ml of DMF, after which 500 mg (0.659 mmol) of 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl L-alaninate trifluoroacetate were added. The reaction mixture was stirred at room temperature overnight and then purified twice by preparative HPLC (acetonitrile/water). This gave 169 mg (28% of theory) of the target compound.

reactant | N-(tert-butoxycarbonyl)-L-histidyl-L-alanine | 0.724 mmol, 257 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](C)C(=O)O | C14H22N4O5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.790 mmol, 151 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-1H-benzotriazole hydrate | 0.988 mmol, 151 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 3.293 mmol, 0.574 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-{4-(2-({(2-(4-chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl L-alaninate trifluoroacetate | 0.659 mmol, 500 mg | FC(C(=O)O)(F)F.N[C@@H](C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-{4-(2-({(2-(4-Chlorophenyl)-1,3-thiazol-4-yl)methyl}sulfanyl)-3,5-dicyano-6-(pyrrolidin-1-yl)pyridin-4-yl)phenoxy}ethyl N-(tert-butoxycarbonyl)-L-histidyl-L-alaninate | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](C)C(=O)OCCOC1=CC=C(C=C1)C1=C(C(=NC(=C1C#N)N1CCCC1)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl)C#N | C43H44ClN9O6S2
